### PR TITLE
feat: (part of the) monotonicity of the predictable step processes (Issue #454)

### PR DESCRIPTION
**Pull request by FrankieNC**
Part of #454.

- [ ] Depends on #475 

Closes the following  `sorry`s in the `PredictablePartLimMono` section:
- `predictableSeqStep_monotone_ae`
- `predictableConvexStep_monotone_ae`

Adds a helper `predictableSeqStep_apply` giving the value of the step process on
each mesh cell `(pred u, u]`.

### CODE REVIEW

**Comment by CoolRmal** [comment]
Can you turn this into an open PR if you think this is ready to review?

**Comment by FrankieNC** [comment]
> Can you turn this into an open PR if you think this is ready to review?

For now, I'm not able to prove the last lemma. So I will open the PR to review for the first two lemmas (which may need to be golfed) and update the PR description accordingly.

I will try to prove the last lemma in a separate PR.

**Comment by FrankieNC** [comment]
awaiting-review

**Comment by CoolRmal** [comment]
I see I'll give some comments later. I think it is better to include the last lemma in this PR instead of creating another PR.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 1]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+lemma predictableSeqStep_apply {ι Ω : Type*} [TopologicalSpace ι] [SecondCountableTopology ι]
+    [LinearOrder ι] [OrderBot ι] [OrderTop ι] {mΩ : MeasurableSpace Ω} (P : Measure Ω)
+    (S : ι → Ω → ℝ) (𝓕 : Filtration ι mΩ) (n : ℕ) (ω : Ω) {t : ι} {u : mesh ι n}
+    (ht : t ∈ meshPredIoc n u) :
+    predictableSeqStep P S 𝓕 n t ω
+      = _root_.predictablePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P u ω := by
+  have h : predictableSeqStep P S 𝓕 n t ω = ∑ v : mesh ι n, (meshPredIoc n v).indicator
+      (fun _ : ι ↦ _root_.predictablePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P v ω) t := by
+    simp only [predictableSeqStep, Finset.sum_apply]
+    exact Finset.sum_congr rfl fun v _ ↦ by by_cases hv : t ∈ meshPredIoc n v <;> simp [hv]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]: May you turn this into a separate lemma? As I believe you also used it in #475 (so maybe you should create a separate lemma in #475 first and make this PR dependent on #475)

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 2]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+      · exact h'
+      · exact absurd (lt_of_le_of_lt ht.2 (lt_of_le_of_lt
+          (Subtype.coe_le_coe.2 (Order.le_pred_of_lt h')) hv'.1)) (lt_irrefl t))) _,
+    Set.indicator_of_mem ht]
+
 lemma predictableSeqStep_monotone_ae {ι Ω : Type*} [TopologicalSpace ι] [T1Space ι]
     [SecondCountableTopology ι] [MeasurableSpace ι] [LinearOrder ι] [OrderBot ι] [OrderTop ι]
     {mΩ : MeasurableSpace Ω} {P : Measure Ω} [IsFiniteMeasure P] {S : ι → Ω → ℝ}
-    {𝓕 : Filtration ι mΩ} (hs : Submartingale S 𝓕 P) (n : ℕ) (t : ι) :
+    {𝓕 : Filtration ι mΩ} (hs : Submartingale S 𝓕 P) (n : ℕ) (_t : ι) :
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    {𝓕 : Filtration ι mΩ} (hs : Submartingale S 𝓕 P) (n : ℕ) :
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 3]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+  intro s₁ s₂ hs12
+  change predictableSeqStep P S 𝓕 n s₁ ω ≤ predictableSeqStep P S 𝓕 n s₂ ω
+  rw [hval s₁, hval s₂]
+  exact hmono (hle s₁ (ceil s₂) (hs12.trans (hmem s₂)))
 
 lemma predictableConvexStep_monotone_ae {ι Ω : Type*} [TopologicalSpace ι] [T1Space ι]
     [SecondCountableTopology ι] [MeasurableSpace ι] [LinearOrder ι] [OrderBot ι] [OrderTop ι]
     {mΩ : MeasurableSpace Ω} {P : Measure Ω} [IsFiniteMeasure P] {S : ι → Ω → ℝ}
     {𝓕 : Filtration ι mΩ} (hd : ClassD S 𝓕 P) (hs : Submartingale S 𝓕 P) (n : ℕ) (t : ι) :
     ∀ᵐ ω ∂P, Monotone fun t ↦ predictableConvexStep hd hs n t ω := by
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    {𝓕 : Filtration ι mΩ} (hd : ClassD S 𝓕 P) (hs : Submartingale S 𝓕 P) (n : ℕ) :
    ∀ᵐ ω ∂P, Monotone fun t ↦ predictableConvexStep hd hs n t ω := by
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 4]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
-  sorry
+  have key : ∀ᵐ ω ∂P, ∀ m : ℕ, Monotone fun s ↦ predictableSeqStep P S 𝓕 m s ω :=
+    ae_all_iff.2 fun m ↦ predictableSeqStep_monotone_ae hs m t
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  have key : ∀ᵐ ω ∂P, ∀ m : ℕ, Monotone fun s ↦ predictableSeqStep P S 𝓕 m s ω :=
    ae_all_iff.2 fun m ↦ predictableSeqStep_monotone_ae hs m
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 5]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+    exact Finset.sum_congr rfl fun v _ ↦ by by_cases hv : t ∈ meshPredIoc n v <;> simp [hv]
+  rw [h, Finset.sum_eq_single_of_mem u (Finset.mem_univ _) fun v _ hv ↦
+    Set.indicator_of_notMem (fun hv' ↦ hv (by
+      rcases lt_trichotomy v u with h' | h' | h'
+      · exact absurd (lt_of_le_of_lt hv'.2 (lt_of_le_of_lt
+          (Subtype.coe_le_coe.2 (Order.le_pred_of_lt h')) ht.1)) (lt_irrefl t)
+      · exact h'
+      · exact absurd (lt_of_le_of_lt ht.2 (lt_of_le_of_lt
+          (Subtype.coe_le_coe.2 (Order.le_pred_of_lt h')) hv'.1)) (lt_irrefl t))) _,
+    Set.indicator_of_mem ht]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]: I think in general we don't want to have a long proof term within rw. I think you can replace this with something like 
```
rw [h, Finset.sum_eq_single_of_mem u (Finset.mem_univ _), Set.indicator_of_mem ht]
```
and then finish the proof by using a bunch other tactics to make it more readable.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 6]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+      have hcne : ceil s ≠ ⊥ := by
+        intro hc
+        have h := hmem s
+        rw [hc, bot_eq_bot] at h
+        exact hs0 (le_bot_iff.1 h)
+      exact not_le.1 fun hcon ↦ absurd (hle s _ hcon) (not_le.2
+        (Order.pred_lt_of_not_isMin fun hmin ↦ hcne (le_bot_iff.1 (hmin bot_le))))
+  intro s₁ s₂ hs12
+  change predictableSeqStep P S 𝓕 n s₁ ω ≤ predictableSeqStep P S 𝓕 n s₂ ω
+  rw [hval s₁, hval s₂]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  simp only [hval s₁, hval s₂]
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 7]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
     {mΩ : MeasurableSpace Ω} {P : Measure Ω} [IsFiniteMeasure P] {S : ι → Ω → ℝ}
     {𝓕 : Filtration ι mΩ} (hd : ClassD S 𝓕 P) (hs : Submartingale S 𝓕 P) (n : ℕ) (t : ι) :
     ∀ᵐ ω ∂P, Monotone fun t ↦ predictableConvexStep hd hs n t ω := by
-  sorry
+  have key : ∀ᵐ ω ∂P, ∀ m : ℕ, Monotone fun s ↦ predictableSeqStep P S 𝓕 m s ω :=
+    ae_all_iff.2 fun m ↦ predictableSeqStep_monotone_ae hs m t
+  filter_upwards [key] with ω hω
+  intro s₁ s₂ hs12
+  change predictableConvexStep hd hs n s₁ ω ≤ predictableConvexStep hd hs n s₂ ω
+  simp only [predictableConvexStep, Finsupp.sum, Finset.sum_apply, Pi.smul_apply]
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean:1111]:
```suggestion
  filter_upwards [key] with ω hω s₁ s₂ hs12
  simp only [predictableConvexStep, Finsupp.sum, Finset.sum_apply, Pi.smul_apply]
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 8]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
+  exact Finset.sum_le_sum fun m _ ↦
+    smul_le_smul_of_nonneg_left (hω m hs12) ((weight hd hs n).weights_nonneg m)
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]: I think this suggests that we are missing a lemma saying that a finite sum of monotone functions is monotone, and also a lemma saying that scalar multiplication by a nonnegative element preserved monotonicity. Make a PR to mathlib if you have time.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 9]
```diff
@@ -1039,19 +1039,79 @@ end MonotoneLim
...
     ∀ᵐ ω ∂P, Monotone fun t ↦ predictableSeqStep P S 𝓕 n t ω := by
-  sorry
+  have hsub : Submartingale (S ∘ Subtype.val) (meshFiltration 𝓕 n) P :=
+    hs.indexComap (Subtype.mono_coe (SetLike.coe (mesh ι n)))
+  have hne : ∀ s : ι, (Finset.univ.filter fun u : mesh ι n ↦ s ≤ (u : ι)).Nonempty :=
+    fun s ↦ ⟨⊤, by simp⟩
+  set ceil : ι → mesh ι n :=
+    fun s ↦ (Finset.univ.filter fun u : mesh ι n ↦ s ≤ (u : ι)).min' (hne s)
+  have hmem : ∀ s : ι, s ≤ (ceil s : ι) :=
+    fun s ↦ (Finset.mem_filter.1 (Finset.min'_mem _ (hne s))).2
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  have hne (s : ι) : (Finset.univ.filter fun u : mesh ι n ↦ s ≤ (u : ι)).Nonempty := ⟨⊤, by simp⟩
```
Here's a trick you can do to avoid introducing arguments in these have statements.

Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Thanks for the tip!

**Comment by FrankieNC** [comment]
> I see I'll give some comments later. I think it is better to include the last lemma in this PR instead of creating another PR.

Makes sense, I will keep trying. I am open to contributions to that last `sorry` in this PR.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 5 above)
Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Ok! Thanks! I think, the new implementation of the proof could be golfed further not sure what the best way to do so would be.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 10]
```diff
@@ -1039,19 +1040,80 @@ end MonotoneLim
...
+    (S : ι → Ω → ℝ) (𝓕 : Filtration ι mΩ) (n : ℕ) (ω : Ω) {t : ι} {u : mesh ι n}
+    (ht : t ∈ meshPredIoc n u) :
+    predictableSeqStep P S 𝓕 n t ω
+      = predictablePart (S ∘ Subtype.val) (meshFiltration 𝓕 n) P u ω := by
+  rw [predictableSeqStep_eq_sum_indicator,
+    Finset.sum_eq_single_of_mem u (Finset.mem_univ _) ?_, Set.indicator_of_mem ht]
+  intro v _ hvu
+  apply Set.indicator_of_notMem
+  intro hv
+  apply hvu
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  refine fun v _ hvu => Set.indicator_of_notMem (fun hv => hvu ?_) _
```

File: BrownianMotion/Auxiliary/Algebra.lean [hunk 11]
```diff
@@ -1,9 +1,30 @@
 module
 
+public import Mathlib.Algebra.Notation.Indicator
+public import Mathlib.Algebra.Order.BigOperators.Group.Finset
+public import Mathlib.Algebra.Order.Module.Defs
```
Comment (CoolRmal) [inline BrownianMotion/Auxiliary/Algebra.lean]:
```suggestion
```
None of them is needed.

**Comment by RemyDegenne** [comment]
@CoolRmal are you happy with the current state of this PR? (If you currently don't have time to do another round of review tell me, I'll do it).

**Comment by CoolRmal** [comment]
@RemyDegenne I am pretty happy with the current state. It is just this PR does not completely address #454. I guess you can merge it now and I'll make a comment under #454 about what is still missing.
